US07595312B2
1g tert. butyl (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoate
A mixture of 15.4 g (40.3 mmol) of 4-tert. butyl (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-succinate, 7.4 g (40.3 mmol) of (1-methyl-4-piperidin-4-yl)-piperazine, 5.45 g (40.3 mmol) of HOBt, 12.94 g (40.3 mmol) of TBTU, 11.77 mL (85.0 mmol) of triethylamine and 400 mL of THF was stirred for 12 h at RT. Then the mixture was evaporated down i. vac. and the residue remaining was distributed between EtOAc and NaHCO3 solution. The org. phase was separated off, dried and evaporated down i. vac. The residue obtained was purified by chromatography on aluminium oxide. The desired product was obtained in the form of a yellow oil.

reactant | 4-tert. butyl (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-succinate | 40.3 mmol, 15.4 g | NC1=C(C=C(C[C@H](C(=O)[O-])CC(=O)OC(C)(C)C)C=C1C(F)(F)F)Cl
reactant | HOBt | 40.3 mmol, 5.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TBTU | 40.3 mmol, 12.94 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 85.0 mmol, 11.77 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | tert. butyl (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-4-oxo-butanoate | NC1=C(C=C(C[C@@H](CC(=O)OC(C)(C)C)C(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1C(F)(F)F)Cl | C26H38ClF3N4O3
